// Ron DC sweep — Spectre + Verilog-A configurable_switch
// Reference: Zhou et al., NEWCAS 2021

ahdl_include "/home/yongfu/proj/switch-model/veriloga/configurable_switch.va"

parameters switch_kind=0
parameters vth_n_v=0.4
parameters vth_p_v=-0.4
parameters k_n=2e-05
parameters k_p=1.5e-05
parameters ratio=10
parameters ron_bs_ohm=200
parameters roff_ohm=1e+12
parameters vdd_v=1.8
parameters vclk_v=1.8
parameters vclk_bar_v=1.8
parameters vin_start_v=0
parameters vin_stop_v=1.8
parameters vin_step_v=0.0367346938776
parameters cgs_f=2.5e-14
parameters cgd_f=2.5e-14
parameters cp1_f=2.5e-14
parameters cp2_f=2.5e-14
parameters cgs_dummy_f=2.5e-14
parameters cgd_dummy_f=2.5e-14
parameters en_flicker_1hz_v_per_sqrt_hz=5e-08
parameters en_flicker_ef=1
parameters kf=1e-24
parameters af=1
parameters enable_noise=1

V0 (vdd 0) vsource dc=vdd_v
V1 (vss 0) vsource dc=0
Vclk (clk 0) vsource dc=vclk_v type=dc
Vclkb (clkbar 0) vsource dc=vclk_bar_v type=dc
Vin (in 0) vsource type=dc

N1 (in out clk clkbar vdd vss) configurable_switch \
    parameters SWITCH_KIND=switch_kind \
    VTH_N_V=vth_n_v VTH_P_V=vth_p_v K_N=k_n K_P=k_p RATIO=ratio \
    RON_BS_OHM=ron_bs_ohm ROFF_OHM=roff_ohm VDD_V=vdd_v \
    CGS_F=cgs_f CGD_F=cgd_f CP1_F=cp1_f CP2_F=cp2_f \
    CGS_DUMMY_F=cgs_dummy_f CGD_DUMMY_F=cgd_dummy_f \
    EN_FLICKER_1HZ_V_PER_SQRT_HZ=en_flicker_1hz_v_per_sqrt_hz \
    EN_FLICKER_EF=en_flicker_ef KF=kf AF=af ENABLE_NOISE=enable_noise

Rload (out 0) resistor r=1e-6

dc dc dev=Vin param=dc start=vin_start_v stop=vin_stop_v step=vin_step_v
